Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
nausea, vomiting, headache, right facial droop
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ right-handed man with a history of
vascular dementia, hypothyroidism, unspecified dysphagia,
hypertension, and hyperlipidemia who presented to the local ___
hospital with headache, malaise, and vomiting, and was found to
have right facial droop so transferred for stroke evaluation. 

He reports 2 weeks of large volume urinary frequency every 2
hours, causing him to wake up frequently throughout the night. 
He
denies dysuria. This morning after breakfast he developed a
left-frontal headache, pressure-like quality, ___ intensity,
along with generalized malaise (reports only that he didn't 
"feel
good"). He was taken to the ___ hospital by a social worker from
his group home and vomited while being triaged. He reported
feeling dizzy and was cradling his head in his hands. He was 
also
noted to be diaphoretic and pale. He was able to stand to obtain
orthostatics wherein his HR rose from 60 to 90, with SBP
remaining steady in 160s. He was transferred due to concern for
stroke given right facial droop seen on evaluation. 

At ___, he vomited while on the CT scanner table. On my
evaluation, NIHSS was 2 for disorientation to month and right
lower facial weakness. He was able to provide some of his own
history, including that he had a remote stroke, but he could not
recall details. 

ROS: 
+ Urinary frequency
+ Nausea, vomiting
+ Malaise
+ Headache

Denies difficulties producing or comprehending speech, loss of
vision, diplopia, dysarthria, vertigo, focal weakness, numbness,
or parasthesiae. Denies difficulty with gait.
 

 
Past Medical History:
- Vascular dementia
- Mood disorder with major depressive-like episode due to 
general
medical condition. 
- Hypertension
- Hyperlipidemia
- Cataract
- Hypothyroidism
- Squamous cell carcinoma of lip
- Dysphagia, unspecified (on pureed diet) 
  Per barium swallow ___ able to swallow puree, ground
soft solid, and honey consistency without difficulty. 
- History of colon polyps (tubular adenomas, hyperplastic, and
adenomatous polyps). 
- Left inguinal hernia

 
Social History:
___
Family History:
Non-contributory. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=========================
Vitals: T:97.1   HR:71   BP:145/112   RR:17   SaO2:100%
General: Awake, cooperative, NAD.
HEENT: NC/AT.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to person, age, place, year not
month, and reason for presentation. Able to relate history 
though
details vague. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects (hammock,
cactus). Able to read without difficulty. No dysarthria. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to threat. 
V: Facial sensation intact to light touch.
VII: Right lower facial droop. 
VIII: Hearing intact to speech. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2            1      1     2
R   2            1      2     2 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait: Deferred. 

DISCHARGE PHYSICAL EXAM
===========================
General: Awake, cooperative, NAD.
HEENT: NC/AT.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to person, age, place, year not
month, and reason for presentation. Able to relate history 
though
details vague. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects (hammock,
cactus). Able to read without difficulty. No dysarthria. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to threat. 
V: Facial sensation intact to light touch.
VII: Right lower facial droop. 
VIII: Hearing intact to speech. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2            1      1     2
R   2            1      2     2 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait: Deferred. 

 
Pertinent Results:
ADMISSION LABS
================
___ 03:41PM BLOOD WBC-11.5* RBC-4.81 Hgb-14.9 Hct-43.3 
MCV-90 MCH-31.0 MCHC-34.4 RDW-12.6 RDWSD-41.6 Plt ___
___ 03:41PM BLOOD Neuts-86.9* Lymphs-6.4* Monos-5.8 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-9.97* AbsLymp-0.74* 
AbsMono-0.67 AbsEos-0.02* AbsBaso-0.05
___ 03:41PM BLOOD Plt ___
___ 03:41PM BLOOD ___ PTT-26.2 ___
___ 03:41PM BLOOD Glucose-165* UreaN-15 Creat-0.7 Na-141 
K-4.3 Cl-99 HCO3-23 AnGap-19*
___ 03:41PM BLOOD ALT-18 AST-16 AlkPhos-112 TotBili-1.1
___ 06:20AM BLOOD CK-MB-5 cTropnT-<0.01
___ 03:41PM BLOOD cTropnT-<0.01
___ 03:41PM BLOOD Albumin-4.5 Calcium-9.0 Phos-3.5 Mg-2.1
___ 03:41PM BLOOD TSH-2.4
___ 03:41PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS
=================
___ 06:20AM BLOOD WBC-10.2* RBC-4.82 Hgb-14.7 Hct-43.5 
MCV-90 MCH-30.5 MCHC-33.8 RDW-12.6 RDWSD-41.3 Plt ___
___ 06:20AM BLOOD Neuts-84.1* Lymphs-7.3* Monos-7.7 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-8.54* AbsLymp-0.74* 
AbsMono-0.78 AbsEos-0.03* AbsBaso-0.03
___ 06:20AM BLOOD Plt ___
___ 06:20AM BLOOD ___ PTT-27.7 ___
___ 06:20AM BLOOD Glucose-112* UreaN-12 Creat-0.7 Na-141 
K-4.0 Cl-100 HCO3-29 AnGap-12
___ 06:20AM BLOOD ALT-18 AST-17 LD(LDH)-223 CK(CPK)-198 
AlkPhos-120 TotBili-1.5
___ 12:14AM BLOOD Lipase-26
___ 06:20AM BLOOD CK-MB-5 cTropnT-<0.01
___ 06:20AM BLOOD %HbA1c-5.5 eAG-111
___ 12:22AM BLOOD ___ pO2-85 pCO2-40 pH-7.45 
calTCO2-29 Base XS-3
___ 12:22AM BLOOD Lactate-1.5

IMAGING
==========
CTA HEAD W&W/O C & RECONS Study Date of ___  
CTA HEAD: 
The anterior and middle cerebral arteries are patent 
bilaterally. There is a possible slight narrowing of the left 
middle cerebral artery but there is no occlusion. The posterior 
communicating artery is diminutive bilaterally.  There is a 
large ophthalmic artery bilaterally which likely represents 
collapse collateral pathway. The dural venous sinuses are 
patent. 
The posterior circulation is patent and without stenosis, 
occlusion, or 
aneurysm. 
CTA NECK: 
There is bilateral occlusion of the internal carotid arteries. 
The origin of the left common carotid artery is diminished in 
caliber. There is no visualized flow in the left external 
carotid artery. There is occlusion of the left internal carotid 
artery just distal to the area of the bifurcation. There is 
distal likely retrograde flow in the supraclinoid segment of the 
left ICA. 
The right common carotid artery is normal in caliber, however 
there is 
occlusion of the internal carotid artery immediately distal to 
the 
bifurcation. There is distal likely retrograde flow in the 
supraclinoid 
segment of the right ICA. The right external carotid artery is 
patent 
There is no evidence of stenosis, occlusion, or aneurysm the 
vertebral or 
basilar arteries. 
OTHER: 
The visualized portion of the lungs are clear. The visualized 
portion of the thyroid gland is within normal limits. There is 
no lymphadenopathy by CT size criteria. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old right-handed man with a history of 
vascular dementia, chronic left frontal infarct with residual 
right facial droop, unspecified dysphagia, hypertension, and 
hyperlipidemia who presented to OSH with headache, malaise, and 
vomiting, and was noted to have right facial droop. He was 
transferred to ___ for stroke evaluation. He did have an acute 
stroke.

#Chronic left frontal infarct
#Chronic right facial droop:
Presented with left frontal headache, general malaise. Taken to 
___ hospital where right lower facial droop was noted, SBP 200, 
prompting transfer to ___. Here, initial NIHSS 2 
(disorientation to month, right lower facial weakness). 
Neurologic exam otherwise unremarkable. CT with left frontal 
chronic infarct, bilateral internal carotid occlusions. Patient 
was shown picture of his face and stated that there was no 
change in his chronic right lower facial droop. His presenting 
headache may have been in the setting of hypertension, as it 
improved with better pressure control. Given low suspicion for 
acute stroke, MRI was not performed. Stroke risk factors were 
notable for: HgA1C: 5.5, LDL pending at discharge. Received 
aspirin 325 mg x1, initiated aspirin 81 mg daily. Changed home 
pravastatin 60 mg daily to atorvastatin 80 mg daily.

#Nausea
#Vomiting
Etiology unclear. Developed over approximately one day. Was 
notably orthostatic per heart rate criteria (HR 60-->90) at the 
___, likely in setting of dehydration from GI losses. His 
symptoms were initially concerning for posterior circulation 
disease, however ruled out acute stroke as above. Possibly had 
transient viral illness. Improved with IV fluids. At time of 
discharge, symptoms resolved.

#Hypothyroidism:
Continued home levothyroxine.

#HTN:
held home amlodipine, resumed at discharge.

#Depression:
Held home bupropion, resumed at discharge.

TRANSITIONAL ISSUES:
=======================
[] f/u lipid panel, pending at discharge
[] initiated aspirin, changed pravastatin to atorvastatin
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Docusate Sodium 100 mg PO DAILY 
3. Levothyroxine Sodium 112 mcg PO DAILY 
4. Pravastatin 60 mg PO QPM 
5. BuPROPion XL (Once Daily) 150 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
5.  Docusate Sodium 100 mg PO DAILY  
6.  Levothyroxine Sodium 112 mcg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
#chronic left frontal infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at the ___ 
___.

You came to the hospital because you developed nausea, vomiting, 
and headaches. The right side of your face was also drooped. 
These symptoms were concerning for a stroke. We evaluated you 
with blood tests and imaging of your brain and determined that 
you did not have a new stroke. Your facial droop appears to be 
chronic from your old stroke. Your nausea, vomiting, and 
headaches got better with fluids.

Please continue to take your medications as prescribed and 
___ with your doctors as ___.

We wish you all the best,
Your ___ care team
 
Followup Instructions:
___